US03950320
1.344 g (2 mole) of 3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}acetyl salicylic acid, sodium salt was treated with ether (30 ml) and 1N HCl (30 ml). The mixture was shaken in a separatory funnel until all the starting material had dissolved. The ether layer was then washed twice with water and treated with 20 ml solution of ethereal diazomethane (5 mmole). After drying (Na2SO4), the solution was evaporated to give 3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}acetyl salicylic acid, methyl ester as an oil, [α]D25 +0.99° (1% in methanol).

reactant | 3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}acetyl salicylic acid | 2 mole, 1.344 g | CC1=C(C(C(=O)O)=C(C=C1)C(CCCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)=O)O | C36H56O9
reactant | sodium | [Na] | Na
reactant | HCl | 1N, 30 ml | Cl | ClH
reactant | diazomethane | 5 mmole | [N+](=[N-])=C | CH2N2
solvent | ether | 30 ml | CCOCC | C4H10O
product | 3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}acetyl salicylic acid, methyl ester | CC1=C(C(C(=O)OC)=C(C=C1)C(CCCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)=O)O | C37H58O9
